US04259338
2.58 g (0.01 mol) of 3-(2,3-dimethyl-6-benzofuranyl)-glutaric anhydride (c.f. Example (4c), 0.855 g, corresponding to about 1.04 ml (1.5 molar equivalents) of cyclopropylamine and 11 ml of glacial acetic acid are dissolved in 11 ml of toluene and the solution is refluxed for 2 days using a water separator. The reaction mixture is then cooled to room temperature, diluted with 50 ml of ethyl acetate and washed twice with 25 ml of water. Thereafter, the organic phase is extracted with 2 N aqueous sodium carbonate solution to remove the acid constituents, then washed again with water and with saturated sodium chloride solution (25 ml of each) and dried over sodium sulfate and the ethyl acetate is evaporated off under a waterpump vacuum. A sand-coloured crude product of melting point 180°-182° is thereby obtained. This is recrystallised from warm methylene chloride and hexane, whereupon N-cyclopropyl-3-(2,3-dimethyl-6-benzofuranyl)-glutarimide is obtained as white flakes of melting point 183°-184° .

reactant | 3-(2,3-dimethyl-6-benzofuranyl)-glutaric anhydride | 0.01 mol, 2.58 g | CC=1OC2=C(C1C)C=CC(=C2)C2CC(=O)OC(C2)=O | C15H14O4
reactant | cyclopropylamine | 1.5 molar, about 1.04 ml | C1(CC1)N | C3H7N
reactant | acetic acid | 11 ml | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
solvent | toluene | 11 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | N-cyclopropyl-3-(2,3-dimethyl-6-benzofuranyl)-glutarimide | C1(CC1)N1C(CC(CC1=O)C1=CC2=C(C(=C(O2)C)C)C=C1)=O | C18H19NO3
